US06252084B1
A solution of 369 mg (0.96 mmol) of 1-([1,1′-biphenyl]-2-ylmethyl)-5-methoxy-2-methyl-1H-indole-3-acetamide and 4 mL of 1M BBr3/methylene chloride in 20 mL of methylene chloride was stirred for 6 hours. The mixture was concentrated at reduced pressure, the residue dissolved in ethyl acetate, washed with water, brine and dried (MgSO4). After concentrating at reduced pressure, the residue was chromatographed on silica gel and eluted with EtOAc to give 295 mg (85% yield) of 1-([1,1′-biphenyl]-2-ylmethyl)-5-hydroxy-2-methyl-1H-indole-3-acetamide.

reactant | 1-([1,1′-biphenyl]-2-ylmethyl)-5-methoxy-2-methyl-1H-indole-3-acetamide | 0.96 mmol, 369 mg | C1(=C(C=CC=C1)CN1C(=C(C2=CC(=CC=C12)OC)CC(=O)N)C)C1=CC=CC=C1 | C25H24N2O2
reactant | BBr3 methylene chloride | 1M, 4 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 1-([1,1′-biphenyl]-2-ylmethyl)-5-hydroxy-2-methyl-1H-indole-3-acetamide | 295 mg, 85% yield | C1(=C(C=CC=C1)CN1C(=C(C2=CC(=CC=C12)O)CC(=O)N)C)C1=CC=CC=C1 | C24H22N2O2
